* PEX transient testbench for tt_um_tetrahedral_oscillator.
* External node names avoid [] so ngspice expressions stay simple.
.lib /home/romeruu/pdk/sky130A/libs.tech/combined/sky130.lib.spice tt
.include ../spice/tt_um_tetrahedral_oscillator_pex.spice

.global VSUBS
Vvdpwr VDPWR 0 1.8
Vvgnd VGND 0 0
Vsubs VSUBS 0 0

Xdut clk ena rst_n ui0 ui1 ui2 ui3 ui4 ui5 ui6 ui7
+ uio_in0 uio_in1 uio_in2 uio_in3 uio_in4 uio_in5 uio_in6 uio_in7
+ uo_out_0 uo_out_1 uo_out_2 uo_out_3 VDPWR VGND tt_um_tetrahedral_oscillator

Rclk clk VGND 1G
Rena ena VGND 1G
Rrst rst_n VGND 1G
Rui0 ui0 VGND 1G
Rui1 ui1 VGND 1G
Rui2 ui2 VGND 1G
Rui3 ui3 VGND 1G
Rui4 ui4 VGND 1G
Rui5 ui5 VGND 1G
Rui6 ui6 VGND 1G
Rui7 ui7 VGND 1G
Ruio0 uio_in0 VGND 1G
Ruio1 uio_in1 VGND 1G
Ruio2 uio_in2 VGND 1G
Ruio3 uio_in3 VGND 1G
Ruio4 uio_in4 VGND 1G
Ruio5 uio_in5 VGND 1G
Ruio6 uio_in6 VGND 1G
Ruio7 uio_in7 VGND 1G

.save v(uo_out_0) v(uo_out_1) v(uo_out_2) v(uo_out_3)
.save v(xdut.oscilador_base_0/x9/Y) v(xdut.oscilador_base_0/x9/A)
.save v(xdut.oscilador_base_0/x4/A) v(xdut.oscilador_base_0/x8/A)

.tran 1n 500n
.control
shell mkdir -p runs/results
run
wrdata runs/results/pex_uo_out.dat v(uo_out_0) v(uo_out_1) v(uo_out_2) v(uo_out_3)
write runs/results/pex_uo_out.raw v(uo_out_0) v(uo_out_1) v(uo_out_2) v(uo_out_3)
quit
.endc
.end
